US07160887B1
Aqueous 1 N sodium hydroxide solution (10 ml, 10 mmols) was added to a solution of ethyl[4-(2-oxopyrrolidin-1-yl)phenyl]acetate (0.97 g, 3.9 mmols) in tetrahydrofuran (20 ml) and ethanol (20 ml). The resulting mixture was stirred at 60° C. for 1 hour. Water was added to the reaction mixture, which was acidified with potassium hydrogensulfate added thereto, and then extracted with ethyl acetate. The extract was washed with water, and then dried with anhydrous magnesium sulfate. This was concentrated under reduced pressure, and the residue was crystallized from hexane/ethanol to give a solid of [4-(2-oxopyrrolidin-1-yl)phenyl]acetic acid (0.5 g, 57%).

reactant | sodium hydroxide | 10 mmols, 1 N, 10 ml | [OH-].[Na+]
reactant | ethyl[4-(2-oxopyrrolidin-1-yl)phenyl]acetate | 3.9 mmols, 0.97 g | C(C)OC(CC1=CC=C(C=C1)N1C(CCC1)=O)=O | C14H17NO3
reactant | Water | O | H2O
reactant | potassium hydrogensulfate | S(=O)(=O)(O)[O-].[K+]
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | [4-(2-oxopyrrolidin-1-yl)phenyl]acetic acid | 0.5 g, 57% | O=C1N(CCC1)C1=CC=C(C=C1)CC(=O)O | C12H13NO3
